US04414390
5-(Imidazo[1,2-a]pyridine-2-yl)-8-methoxy-3,4-dihydrocarbostyril (1.4 g) and DDQ (3.5 g) were added to dioxane (30 ml) and the mixture was refluxed for 5 hours. The reaction mixture was concentrated under reduced pressure and the residue was extracted by the addition of chloroform and 0.5 N sodium hydroxide. The chloroform layer was washed with 0.5 N sodium hydroxide and then with water twice. After drying, chloroform was evaporated. The residue was isolated and purified through a silica gel column. The crude crystals thus obtained were dissolved in acetone and hydrochloric acid was added to the resulting solution. Crystals which precipitated were collected by filtration and recrystallized from water to give 410 mg of 5-(imidazo[1,2-a]-pyridine-2-yl)-8-methoxycarbostyril monohydrochloride monohydrate.

reactant | 5-(Imidazo[1,2-a]pyridine-2-yl)-8-methoxy-3,4-dihydrocarbostyril | 1.4 g | N=1C(=CN2C1C=CC=C2)C2=C1CCC(NC1=C(C=C2)OC)=O | C17H15N3O2
reactant | DDQ | 3.5 g | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
reactant | dioxane | 30 ml | O1CCOCC1 | C4H8O2
reactant | hydrochloric acid | Cl | ClH
solvent | acetone | CC(=O)C | C3H6O
product | 5-(imidazo[1,2-a]-pyridine-2-yl)-8-methoxycarbostyril monohydrochloride monohydrate | 410 mg | O.Cl.N=1C(=CN2C1C=CC=C2)C2=C1C=CC(NC1=C(C=C2)OC)=O | InChI=1S/C17H13N3O2.ClH.H2O/c1-22-14-7-5-11(12-6-8-16(21)19-17(12)14)13-10-20-9-3-2-4-15(20)18-13;;/h2-10H,1H3,(H,19,21);1H;1H2
